US06610846B1
A solution of 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid methyl ester (110 mg, 0.335 mmol) in tetrahydrofuran (1 mL) was treated with a 0.8M aqueous lithium hydroxide solution (630 μL, 0.502 mmol). The reaction mixture was stirred at 25° C. for 2 h and then treated with water (30 mL), a 1N aqueous hydrochloric acid solution (2 mL), and ethyl acetate (30 mL). The layers were separated, and the resulting aqueous layer was back-extracted with ethyl acetate (30 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid as a pale yellow oil which solidified to a pale yellow solid upon sitting at 25° C. The pale yellow solid corresponding to 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid (106 mg, 98%) was used without further purification: mp 115-117° C.; EI-HRMS m/e calcd for C15H19FO4S (M+) 314.0988, found 314.0986.

reactant | 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid methyl ester | 0.335 mmol, 110 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C16H21FO4S
reactant | lithium hydroxide | 0.502 mmol, 0.8M, 630 μL | [OH-].[Li+]
reactant | water | 30 mL | O | H2O
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid | C1(CCCC1)CC(C(=O)O)C1=CC(=C(C=C1)S(=O)(=O)C)F | C15H19FO4S
